US05891902
N-Isopropyl-3-(diphenylmethyl)indole-2-sulfonamide (Compound 265)
To a solution of benzhydrol (0.58 g, 3.15 mmol) and N-isopropylindole-2-sulfonamide (0.7 g, 3.12 mmol) in 15 ml of methylene chloride was added a solution of methanesulfonic acid (0.2 ml, 3.12 mmol) in 4 ml of methylene chloride, followed by stirring at room temperature for 2.5 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction solution for neutralization and the solvent was distilled off under reduced pressure, followed by extraction with ethyl acetate. The resulting organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to give 1.4 g of a crude product. The obtained crude product was washed with ethanol to give 1.07 g (yield: 85%) of the title compound.

reactant | benzhydrol | 3.15 mmol, 0.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | N-isopropylindole-2-sulfonamide | 3.12 mmol, 0.7 g | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1 | C11H14N2O2S
reactant | methanesulfonic acid | 3.12 mmol, 0.2 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-3-(diphenylmethyl)indole-2-sulfonamide | 1.07 g, yield: 85% | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24N2O2S
